US04613208
A mixture of 2.63 g of 4-(bromomethyl)-4'-(trans-4-pentylcyclohexyl)biphenyl and 2.2 g of triphenylphosphine in 150 ml of o-xylene was heated to reflux (bath temperature 160° C.) for 15 hours in a sulphonation flask under argon gasification. After cooling, the white precipitate formed was filtered off, washed several times with benzene and dried in a high vacuum (0.1 mmHg) at 80° C. for 1 hour. There were obtained 3.48 g (80%) of [[4'-(trans-4-pentylcyclohexyl)-4-biphenylyl]methyl]triphenylphosphonium bromide as a white powder (m.p. 263°-265° C.) which was used in the following Wittig reaction without additional purification.

reactant | 4-(bromomethyl)-4'-(trans-4-pentylcyclohexyl)biphenyl | 2.63 g | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C24H31Br
reactant | triphenylphosphine | 2.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | o-xylene | 150 ml | CC=1C=CC=CC1C | C8H10
product | [[4'-(trans-4-pentylcyclohexyl)-4-biphenylyl]methyl]triphenylphosphonium bromide | 3.48 g, 80% | [Br-].C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C42H46P.BrH/c1-2-3-7-14-34-21-25-36(26-22-34)38-29-31-39(32-30-38)37-27-23-35(24-28-37)33-43(40-15-8-4-9-16-40,41-17-10-5-11-18-41)42-19-12-6-13-20-42;/h4-6,8-13,15-20,23-24,27-32,34,36H,2-3,7,14,21-22,25-26,33H2,1H3;1H/q+1;/p-1/t34-,36-;
